US04006241
2-(4-Methoxy-2,3,6-trimethylbenzoyl)-5-nitrothiazole
One gram of 5-nitrothiazole-2-carboxylic acid chloride in 10 ml. of methylene chloride is combined with 850 mg. of 2,3,5-trimethylanisole and then with 1.6 g. of aluminum chloride. After three hours of agitation at room temperature, the reaction mixture is poured on 50 ml. of 1N HCl and extracted with ethyl acetate. After drying of the solution and evaporating the solvent under vacuum, the crystalline residue is recrystallized from methanol/chloroform.

reactant | 5-nitrothiazole-2-carboxylic acid chloride | One gram | [N+](=O)([O-])C1=CN=C(S1)C(=O)Cl | C4HClN2O3S
reactant | 2,3,5-trimethylanisole | CC1=C(C=C(C=C1C)C)OC | C10H14O
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(4-Methoxy-2,3,6-trimethylbenzoyl)-5-nitrothiazole | COC1=C(C(=C(C(=O)C=2SC(=CN2)[N+](=O)[O-])C(=C1)C)C)C | C14H14N2O4S
